US04375435
N-Benzoyl-N'-[3-(4-imidazolyl)propyl]-N"-[2-(5-methyl-4-imidazolylmethylthio)ethyl]guanidine (2.37 g) was heated overnight on a steam bath with conc. hydrochloric acid (135 ml). The aqueous reaction mixture was evaporated to ca 75% of its original volume to remove the excess of hydrogen chloride. The aqueous residue obtained was extracted with diethyl ether to remove benzoic acid. The aqueous phase was evaporated at reduced pressure and azeotroped with ethanol (100 ml). The oily residue was recrystallised from ethanol to yield N-[3-(4-imidazolyl)propyl]-N'-[2-(5-methyl-4-imidazolylmethylthio)ethyl]guanidine trihydrochloride (1.93 g) m.p. 200°-201° C.

reactant | N-Benzoyl-N'-[3-(4-imidazolyl)propyl]-N"-[2-(5-methyl-4-imidazolylmethylthio)ethyl]guanidine | 2.37 g | C(C1=CC=CC=C1)(=O)NC(=NCCSCC=1N=CNC1C)NCCCC=1N=CNC1 | C21H27N7OS
reactant | hydrochloric acid | 135 ml | Cl | ClH
product | N-[3-(4-imidazolyl)propyl]-N'-[2-(5-methyl-4-imidazolylmethylthio)ethyl]guanidine trihydrochloride | 1.93 g | Cl.Cl.Cl.N1C=NC(=C1)CCCNC(=N)NCCSCC=1N=CNC1C | InChI=1S/C14H23N7S.3ClH/c1-11-13(21-10-19-11)8-22-6-5-18-14(15)17-4-2-3-12-7-16-9-20-12;;;/h7,9-10H,2-6,8H2,1H3,(H,16,20)(H,19,21)(H3,15,17,18);3*1H
